US07985753B2
2-[3-(2-Methyl-[1,3]dioxolan-2-yl)-pyridin-2-yl]-ethylamine
[3-(2-Methyl-1,3-dioxolan-2-yl)-2-pyridyl]methyl cyanide (540 mg, 2.64 mmol, 1.0 equiv) is dissolved in ethanol. A catalytic amount of Raney Nickel is added and the resulting mixture is placed under a hydrogen atmosphere. The mixture is stirred for 7 h using a hot water bath to warm the reaction mixture. After flushing with nitrogen, the mixture is filtered over kieselguhr and rinsed with ethyl acetate. The filtrate is concentrated in vacuo with replenishment of dichloromethane. This gave 490 mg of the title compound as a yellow oil.

reactant | [3-(2-Methyl-1,3-dioxolan-2-yl)-2-pyridyl]methyl cyanide | 2.64 mmol, 540 mg, 1.0 equiv | CC1(OCCO1)C=1C(=NC=CC1)CC#N | C11H12N2O2
solvent | ethanol | C(C)O | C2H6O
catalyst | Raney Nickel | [Ni] | Ni
product | 2-[3-(2-Methyl-[1,3]dioxolan-2-yl)-pyridin-2-yl]-ethylamine | CC1(OCCO1)C=1C(=NC=CC1)CCN | C11H16N2O2
